US04003927
A mixture of 6-methoxy-7,8-dichloro-1-tetralone (2.45 g.) and pyridine hydrochloride (25 g.) is heated at 180°-190° C. for two hours and then poured into water (500 ml.). The product is collected, washed with water, dried and crystallized from ethanol-water (3:2) to obtain 6-hydroxy-7,8-dichloro-1-tetralone (1 g.), melting point 243.5°-245.5° C.

reactant | 6-methoxy-7,8-dichloro-1-tetralone | 2.45 g | COC=1C=C2CCCC(C2=C(C1Cl)Cl)=O | C11H10Cl2O2
reactant | pyridine hydrochloride | 25 g | Cl.N1=CC=CC=C1
solvent | water | 500 ml | O | H2O
product | 6-hydroxy-7,8-dichloro-1-tetralone | 1 g | OC=1C=C2CCCC(C2=C(C1Cl)Cl)=O | C10H8Cl2O2
